US07906528B2
A mixture of 5-(2,6-Diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (1 g, 4.5 mmol), formaldehyde (37% solution in water, 1.4 mL, 18 mmol), dimethylamine (2 M solution in MeOH, 18 mL, 18 mmol) and EtOH (50 mL) is heated to reflux for 2.5 h. All volatiles are removed under reduced pressure. The residue is mixed with toluene, which is subsequently removed under reduced pressure. The residue is dissolved in DMF (15 mL), KCN (2.6 g, 40 mmol) is added and the mixture was refluxed for 2 h. DMF is removed under reduced pressure, and the residue is purified by chromatography on silica gel (EtOAc) to afford [5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-acetonitrile as colorless oil.

reactant | 5-(2,6-Diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 4.5 mmol, 1 g | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)NC=C2 | C17H18N2
reactant | formaldehyde | 18 mmol, 1.4 mL | C=O | CH2O
reactant | dimethylamine | 18 mmol, 2 M, 18 mL | CNC | C2H7N
reactant | KCN | 40 mmol, 2.6 g | [C-]#N.[K+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | [5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-acetonitrile | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)NC=C2CC#N | C19H19N3
